US05885999
c) 1-t-Butoxycarbonyl-4-(2-aminophenyl)piperidine
t-Butyl (1-t-butoxycarbonylpiperidin-4-yl)phenylcarbamate (290 mg) was dissolved in trifluoroacetic acid-dichloromethane (10%, 20 mL) and stirred at room temperature for 2 h. The solvent was evaporated under reduced pressure and the residue was partitioned between aqueous sodium hydroxide (2M) and ether (30 mL). The organic layer was separated, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in dichloromethane (20 mL) and cooled in ice. Di-t-butyldicarbonate (161 mg) was added and the mixture was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure and the residue was purified by MPLC on silica gel, eluting with EtOAc/Hexane (5:95) to give the title compound as a clear oil (141 mg), δH (CDCl3) 1.55 (9H, s), 1.59 (2H, m), 1.82 (2H, m), 2.58 (1H, m), 2.77 (1H, m), 3.64 (2H, br s), 4.16 (2H, m), 6.68-6.79 (2H, m), 7.01-7.26 (2H, m).

reactant | t-Butyl (1-t-butoxycarbonylpiperidin-4-yl)phenylcarbamate | 290 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(OC(C)(C)C)=O)C1=CC=CC=C1 | C21H32N2O4
reactant | trifluoroacetic acid dichloromethane | 20 mL | FC(C(=O)O)(F)F.ClCCl
product | 1-t-Butoxycarbonyl-4-(2-aminophenyl)piperidine | 141 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)N | C16H24N2O2
